US04225609
Step B: Preparation of 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid
A solution of 4-{3-[3-[2-(1-Cyclohexenyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid (3.7 g., 0.01 mole) in trifluoroacetic acid (20 ml.) is allowed to stand at 25° C. for 4 hours. Excess trifluoroacetic acid is then removed by evaporation at reduced pressure. The oily residue is dissolved in a solution of sodium hydroxide (2.0 g., 0.05 mole) in water (40 ml.). The basic solution is acidified with 2 N hydrochloric acid. The title compound precipitates as a solid. Recrystallization from acetonitrile-water yields the purified title compound, m.p. 147°-148° C.

reactant | 4-{3-[3-[2-(1-Cyclohexenyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid | 0.01 mole, 3.7 g | C1(=CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H27NO3S
reactant | sodium hydroxide | 0.05 mole, 2.0 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 40 ml | O | H2O
product | 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
